US04791109
STEP B: N-(2-hydroxyphenyl)-1H-indol-4-carboxamide
250 ml of a solution of potassium hydroxide in ethanol at 10 g per 100 ml were added to a suspension of 25 g of N-[2-[(4-methylphenyl)sulfonyloxy]phenyl]-1H-indol-4-carboxamide in 50 ml of ethanol at 95° C. with stirring under an inert atmosphere and the mixture was stirred for 21 hours. 1 liter of iced water was added, and the mixture was acidified with a concentrated aqueous solution of hydrochloric acid, followed by stirring for a further 15 minutes, filtering, drying and triturating at reflux in 1.5 liters of methylene chloride. After concentrating to about 300 ml, filtering and drying at 80° C. under reduced pressure, 13 g of N-(2-hydroxyphenyl)-1H-indol-4-carboxamide melting at ≃208° C. were obtained.

reactant | potassium hydroxide | [OH-].[K+]
reactant | N-[2-[(4-methylphenyl)sulfonyloxy]phenyl]-1H-indol-4-carboxamide | 25 g | CC1=CC=C(C=C1)S(=O)(=O)OC1=C(C=CC=C1)NC(=O)C=1C=2C=CNC2C=CC1 | C22H18N2O4S
reactant | water | 1 liter | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-(2-hydroxyphenyl)-1H-indol-4-carboxamide | OC1=C(C=CC=C1)NC(=O)C=1C=2C=CNC2C=CC1 | C15H12N2O2
